Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___
 
Chief Complaint:
Orthopnea, ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ w/ ESRD s/p deceased donor renal
transplant in ___ complicated by chronic allograft dysfunction
(antibody-mediated rejection ___, biopsy-confirmed chronic
transplant glomerulopathy, interstitial fibrosis & tubular
atrophy ___, HTN, GERD, HCV s/p ledipasvir-sofosbuvir, &
hyperparathyroidism s/p sub-total parathyroidectomy ___ who
presents w/ dyspnea on exertion progressing to dyspnea at rest, 
&
orthopnea for 1 week.  

Of note, the patient was recently admitted ___ w/ acute
abdominal pain in the ___ & RLQ region w/ diarrhea,
ultimately thought to be ___ non-specific viral enteritis. 
Importantly on that admission his creatinine was ~3 (baseline). 
He had persistent hyperkalemia throughout that admission
(5.5-6.0) so losartan & TMP-SMX were discontinued & he was
started on sodium bicarbonate.  He also had persistent
hypertension (SBP > 170) so his labetalol was increased &
nifedipine was initiated. 

On this admission, the patient noted increasing SOB since ___. 
He reports that the SOB progressed to SOB at rest & was worst
when lying flat.  He notes no CP, palpitations, or infectious
symptoms.  He states that he has felt like this in the past when
fluid overloaded prior to dialysis sessions. 

In the ED, 

-Initial VS:  
T97.6 HR74 BP 134/68 RR16 O2100% RA 

-Initial exam notable for: 

"PE: NAD, well-appearing, breathing normally
Lungs: dullness to percussion at bases. Mild expiratory wheezes
bilaterally.
Heart: III/VI systolic crescendo-decrescendo murmur at RUSB.
Abdomen: soft, nontender, nondistended, with surgical scars
Extremities: nonpitting edema ___ of the way up the calf
bilaterally"

-Initial labs notable for:

   \ 9.0  /
4.4 ------ 193
   / 28.8 \

137 | 105 | 48  /
---------------- 105
6.1 | 15  | 4.3 \

___

Lactate: 1.4

Troponin: < 0.01

-Initial imaging notable for:  

CXR:
There is mild cardiac enlargement which is new since prior. 
There are small bilateral pleural effusions.  There is pulmonary
vascular congestion without overt edema.  No focal 
consolidation.
No acute osseous abnormalities. 

Renal Transplant US  
1. No hydronephrosis.  
2. Mildly elevated resistive indices, although slightly 
decreased
compared to prior. Main renal artery and main renal vein are
patent with appropriate waveforms.  

-The patient was given:  
___ 00:39 IV Furosemide 80 mg  
___ 01:20 IV Insulin (Regular) for Hyperkalemia 10 units  

___ 01:20 IV Dextrose 50% 25 gm  
___ 01:20 IV Calcium Gluconate 1 gm  
___ 01:34 PO Tacrolimus 3 mg  
___ 01:34 PO Mycophenolate Sodium ___ 360 mg  
___ 01:34 PO/NG Labetalol 400 mg  
___ 02:12 PO/NG Amitriptyline 75 mg  
___ 09:52 PO/NG PredniSONE 5 mg  
___ 09:52 PO/NG Ranitidine 150 mg  
___ 11:56 IV Furosemide 80 mg  
___ 11:59 PO/NG Labetalol 400 mg  
___ 12:50 PO/NG Atovaquone Suspension 1500 mg  
___ 12:50 PO Cinacalcet 30 mg  
___ 17:05 PO Tacrolimus 3 mg  

-On the floor, the patient confirms the above history.  He 
states
he feels comfortable w/o fevers, chills, SOB, CP, palpitations,
abdominal pain, N/V/D, dysuria, myalgias. 

REVIEW OF SYSTEMS: 
==================
Pertinent positives & negatives noted in HPI. 
 
Past Medical History:
ESRD due to polycystic kidney disease, on HD ___ to ___ s/p
SCD renal transplant ___
Hypertension
GERD
Hepatitis C, treated with interferon monotherapy then Harvoni
post-transplant
Osteomyelitis, ___ 
Epidural abscess ___.  
Endocarditis ___. 
Hypertention 
Hyperparathyroidism status post subtotal parathyroidectomy 
revision ___, thyroid lobectomy. 
Gout. 
Carotid stenosis. 
Restless legs syndrome. 
Depression. 
 

 
Social History:
___
Family History:
Father: ___
Mother: No medical conditions
Sister: CAD
Son: ___
 
Physical Exam:
ADMISSION PHYSICAL
==================
T98.0 BP200/91 HR104 RR18 O295Ra 
GENERAL: WN/WD middle-aged male, NAD, A/O3. 
HEAD: NC/AT. 
NECK: JVD to mid-upper neck. 
CARDIAC: ___ holo-systolic murmur throughout, RRR, S1S2.
RESPIRATORY: Trace b/l crackles, comfortable. 
ABDOMEN: Soft, NT, +BS. 
EXTREMITIES: Warm, no edema.

DISCHARGE PHYSICAL
==================
VS: 24 HR Data (last updated ___ @ 801)
    Temp: 98.5 (Tm 99.0), BP: 158/81 (___), HR: 69
(66-70), RR: 16 (___), O2 sat: 98% (96-98), O2 delivery: Ra,
Wt: 150.1 lb/68.09 kg (150.1-151.1)   
GENERAL: WN/WD middle-aged male, NAD, AAOx3. 
HEAD: NC/AT, EOMI, PERRL, MMM.
NECK: Supple, JVP ~6cm 
CARDIAC: ___ holo-systolic murmur throughout, RRR, S1S2.
RESPIRATORY: Trace bilateral crackles at the bases only,
comfortable. 
ABDOMEN: Soft, NT, +BS. 
EXTREMITIES: Warm, no edema, no clubbing, no cyanosis, od access
in L arm - no bruit or thrill
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:47PM BLOOD WBC-4.4 RBC-3.21* Hgb-9.0* Hct-28.8* 
MCV-90 MCH-28.0 MCHC-31.3* RDW-14.6 RDWSD-47.4* Plt ___
___ 09:47PM BLOOD Neuts-79.2* Lymphs-12.3* Monos-7.1 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-3.47 AbsLymp-0.54* 
AbsMono-0.31 AbsEos-0.03* AbsBaso-0.01
___ 09:47PM BLOOD ___ PTT-29.0 ___
___ 09:47PM BLOOD Glucose-105* UreaN-48* Creat-4.3*# Na-137 
K-6.1* Cl-105 HCO3-15* AnGap-17
___ 09:47PM BLOOD CK-MB-2
___ 09:47PM BLOOD CK(CPK)-169
___ 09:47PM BLOOD cTropnT-0.01
___ 10:00AM BLOOD proBNP-5538*
___ 09:47PM BLOOD Calcium-8.8 Phos-3.5 Mg-1.8
___ 10:03PM BLOOD ___ pO2-35* pCO2-34* pH-7.34* 
calTCO2-19* Base XS--6 Intubat-NOT INTUBA
___ 12:48AM URINE Color-Straw Appear-Clear Sp ___
___ 12:48AM URINE Blood-NEG Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:48AM URINE RBC-0 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 12:48AM URINE Hours-RANDOM Creat-60 Na-75 Cl-59
___ 12:48AM URINE Osmolal-301
___ 11:46AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

MICRO
=====
Urine Culture ___ - No Growth

TACROLIMUS LEVELS
=================
___ 05:10PM BLOOD tacroFK-4.1*
___ 04:14AM BLOOD tacroFK-4.4*
___ 04:58AM BLOOD tacroFK-4.5*
___ 04:57AM BLOOD tacroFK-4.1*

IMAGING
=======
TTE ___
The left atrial volume index is mildly increased. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. An eccentric, posteriorly directed jet of mild (1+) 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is a trivial/physiologic 
pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved biventricular systolic function. Increased left 
ventricular filling pressure. Indeterminate pulmonary pressure. 

CXR ___: Mild cardiomegaly with small pleural effusions and 
pulmonary vascular congestion. 

RENAL TRANSPLANT US ___:
1. No hydronephrosis. 
2. Mildly elevated resistive indices, slightly decreased 
compared to prior.  Main renal artery and main renal vein are 
patent with appropriate waveforms. 

BILATERAL VEIN MAPPING UPPER EXTREMITITES ___
FINDINGS: 
 
RIGHT:
The cephalic vein is patent with measurements of 0.09 cm to 0.17 
cm.  The
basilic vein is patent with measurements of 0.26 to 0.___rtery measures 0.23 cm. The brachial artery measures 0.49 cm. 
Heavy arterial
calcifications are present.
 
LEFT:
The cephalic vein is patent with measurements of 0.13 at the 
wrist but there
is occlusion proximally. The basilic vein is patent with 
measurements of 0.36
to 0.___rtery measures 0.30 cm but is occluded 
at the wrist. 
The brachial artery measures 0.78 cm. Heavy arterial 
calcifications are
present.
 
There is phasic flow in both subclavian veins.
 
IMPRESSION: 
 
Patent right cephalic and basilic veins with diameters as above. 
 Occluded
left cephalic but patent basilic vein.  Patent right radial and 
bilateral
brachial arteries with diameters as shown above. 

DISCHARGE LABS
==============
___ 04:57AM BLOOD WBC-2.8* RBC-3.48* Hgb-9.7* Hct-30.7* 
MCV-88 MCH-27.9 MCHC-31.6* RDW-14.4 RDWSD-45.5 Plt ___
___ 04:57AM BLOOD Neuts-55.5 ___ Monos-18.2* 
Eos-2.3 Baso-0.3 Im ___ AbsNeut-1.68 AbsLymp-0.71* 
AbsMono-0.55 AbsEos-0.07 AbsBaso-0.01
___ 04:57AM BLOOD Glucose-94 UreaN-56* Creat-4.3* Na-136 
K-4.6 Cl-98 HCO3-24 AnGap-14
___ 04:57AM BLOOD Calcium-9.0 Phos-5.0* Mg-2.1
___ 04:57AM BLOOD tacroFK-4.1*

 
Brief Hospital Course:
Mr. ___ is a ___ w/ ESRD s/p deceased donor renal 
transplant in ___ complicated by chronic allograft dysfunction 
(antibody-mediated rejection ___, biopsy-confirmed chronic 
transplant glomerulopathy, interstitial fibrosis & tubular 
atrophy ___, HTN, GERD, HCV s/p ledipasvir-sofosbuvir, & 
hyperparathyroidism s/p sub-total parathyroidectomy ___ who 
presented with increasing shortness of breath. 

# Dyspnea
# ?Acute CHF Exacerbation 
The patient presented with a history of orthopnea & dyspnea w/ 
CXR findings of bilateral effusions & pulmonary vascular 
congestion consistent with fluid overload state. His weight was 
noted to be higher recently from prior discharge. No medication 
non-adherence or dietary changes although the recent addition of 
sodium bicarbonate may be contributing due to increased Na load. 
Patient's blood pressures were uncontrolled & likely further 
increased his left-sided afterload. A TTE on ___ revealed 
elevated PCWP and E/E' with preserved EF. Overall patient 
reported symptomatic improvement with diuresis and his daily 
weights continued to trend down. Although there are no concerns 
of rejection based on a bland urine sediment and an unremarkable 
renal ultrasound, the etiology of the patient's volume overload 
may have been in part also been caused by worsening renal 
function as evidenced by creatinines in the 4s compared to his 
baseline of creatinine in the 3s. Patient was diuresed with IV 
furosemide PRN and transitioned to oral diuretics. His 
electrolytes are monitored and repleted as needed. His labetalol 
was increased to 600 mg 3 times daily and he was continued on 
his nifedipine 30 mg daily.

# ___:
# ESRD w/p transplant c/b chronic rejection:
Cr 4 on presentation, up from discharge 3.2 on ___. His elevated 
creatinine may be cardiorenal in etiology given clinical context 
and possible end-organ damage in setting of hypertension but 
worsening overall renal function cannot be ruled out given lack 
of significant improvement with diuresis. His renal US had no 
evidence/concern for hydronephrosis and there was less concern 
for rejection at this time given bland urine and lack of 
characteristics findings on renal US. The patient's renal 
function was trended daily. He was continued on his 
immunosuppressive regimen of mycophenolate, tacrolimus, and 
prednisone. His tacrolimus levels were trended daily. He was 
continued on atovaquone prophylaxis. His MAPs were maintained 
above 65. He is also continued on calcium and cinacalcet. Sodium 
bicarbonate was held in the setting of his volume overloaded 
state. His blood pressure was better controlled as noted.

# HTN:
The patient was noted to have systolic blood pressure readings 
in the ___. He was previously on losartan & labetalol last 
hospitalization but losartan was held on discharge given 
persistent hyperkalemia. At that time, labetalol dosing was 
increased to 400mg TID from 200mg BID & nifedipine ER 30mg QD 
was initiated. No evidence of renal artery stenosis in 
transplant kidney as though no changes in resistive indices. The 
patient's labetalol was increased to 600 mg 3 times daily and he 
was continued on nifedipine along leading to better blood 
pressure control.

# Mild Hyperkalemia:
Patient presented with mild hyperkalemia and on review of 
records, it appeared that patient was chronically mildly 
hyperkalemic. His hyperkalemia improved with ongoing IV diuresis 
with Furosemide. 

# Normocytic anemia:
His home hemoglobin was similar to baseline values in setting of 
end-stage renal disease. His CBCs were trended daily and he did 
not require a blood transfusion during his hospitalization.

# GERD:
Continued on his prior dose of ranitidine.

# Insomnia:
Continued on his prior dose of amitriptyline. His ramelteon was 
held due to concerns of possible toxicity to the renal 
transplant.

TRANSITIONAL ISSUES
===================
[]Added new oral diuretics: PO Lasix 40 mg BID, please uptitrate 
as tolerated
[]New BP regimen as follows: Labetalol 600 mg TID and Nifedipine 
30 mg daily, please uptitrate as tolerated
[]Please check electrolytes in five days to monitor K and Mg
[]Please have patient follow-up with Dr. ___ one 
month to discuss possibility of HD in the future
[] IMMUNOSUPPRESSION REGIMEN
- tacrolimus 3mg Q12h
- mycophenolate myfortic 360mg PO BID
- prednisone 5mg PO daily
- atovaquone 1500 mg daily 
#Code: Full (presumed)
#Contact: ___ (son)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 75 mg PO QHS 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 500 mg PO BID 
4. Cinacalcet 30 mg PO DAILY 
5. Labetalol 400 mg PO TID 
6. Magnesium Oxide 400 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Mycophenolate Sodium ___ 360 mg PO BID 
9. PredniSONE 5 mg PO DAILY 
10. Tacrolimus 3 mg PO Q12H 
11. Ranitidine 150 mg PO DAILY 
12. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
13. Atovaquone Suspension 1500 mg PO DAILY 
14. NIFEdipine (Extended Release) 30 mg PO DAILY 
15. Sodium Bicarbonate 1300 mg PO BID 

 
Discharge Medications:
1.  Furosemide 40 mg PO BID  
2.  Labetalol 600 mg PO TID  
3.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
4.  Amitriptyline 75 mg PO QHS  
5.  Aspirin 81 mg PO DAILY  
6.  Atovaquone Suspension 1500 mg PO DAILY  
7.  Calcium Carbonate 500 mg PO BID  
8.  Cinacalcet 30 mg PO DAILY  
9.  Magnesium Oxide 400 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Mycophenolate Sodium ___ 360 mg PO BID  
12.  NIFEdipine (Extended Release) 30 mg PO DAILY  
13.  PredniSONE 5 mg PO DAILY  
14.  Ranitidine 150 mg PO DAILY  
15.  Sodium Bicarbonate 1300 mg PO BID  
16.  Tacrolimus 3 mg PO Q12H  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary Diagnoses
=================
End-stage renal disease with prior transplant complicated by 
chronic rejection
Pulmonary edema
Dyspnea
Orthopnea
Hyperkalemia
Hypertension

Secondary Diagnoses
===================
Normocytic anemia
GERD
Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you in the hospital!

Why was I admitted to the hospital?
-You came to the hospital because you were having difficulty 
breathing when walking and when lying flat

What happened while I was admitted to the hospital?
-You were found to have fluid in your lungs and high blood 
pressure and these were likely causing your symptoms
-Your heart health was checked with an ultrasound and lab tests 
but no major abnormalities were found
-You were given medications to help to urinate out the fluid and 
her blood pressure medications were adjusted to decrease your 
blood pressure
-Your lab numbers were closely monitored and you were continued 
on your home medications
-You underwent imaging to evaluate the vasculature in your arms 
as your renal dysfunction may be progressing and therefore you 
may require dialysis in the future

What should I do after I leave the hospital?
-Please continue taking all of your medications as prescribed, 
details below
-Keep all of your appointments as scheduled 

We wish you the very best! 

Your ___ Care Team
 
Followup Instructions:
___